US04379922
7-Amino-3-hydroxycepham-4-carboxylic acid (10.9 g, purity 84.8%), 2-methoxyimino-3,3,diethoxy-4-bromobutyric acid (syn isomer, 17.9 g), phosphorus oxychloride (6.8 ml), N,N-dimethylformamide (5.5 ml), water (100 ml), acetone (50 ml.) and tetrahydrofuran (44 ml) were treated in a similar manner to that of Example 25 (1) to give 7-(2-methoxyimino-3,3-diethoxy-4-bromobutyramido)-3-hydroxycepham-4-carboxylic acid (syn isomer, 17.1 g.). The I.R. spectrum and N.M.R. spectrum of the compound were the same as those of Example 28.

reactant | 7-Amino-3-hydroxycepham-4-carboxylic acid | 10.9 g | NC1[C@@H]2N(C(C(CS2)O)C(=O)O)C1=O | C7H10N2O4S
reactant | 2-methoxyimino-3,3,diethoxy-4-bromobutyric acid | 17.9 g | CON=C(C(=O)O)C(CBr)(OCC)OCC | C9H16BrNO5
reactant | phosphorus oxychloride | 6.8 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | N,N-dimethylformamide | 5.5 ml | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 44 ml | O1CCCC1 | C4H8O
solvent | acetone | 50 ml | CC(=O)C | C3H6O
solvent | water | 100 ml | O | H2O
product | 7-(2-methoxyimino-3,3-diethoxy-4-bromobutyramido)-3-hydroxycepham-4-carboxylic acid | 17.1 g | CON=C(C(=O)NC1[C@@H]2N(C(C(CS2)O)C(=O)O)C1=O)C(CBr)(OCC)OCC | C16H24BrN3O8S
